US04661622
The ester-alcohol can be obtained in the method of the present invention by not carrying out the alcohol removing ester-interchange reaction, or as an unreacted fraction in the ester-interchange reaction which distills between the bis compound and the starting diester. On the other hand, it can be obtained as an intermediate of direct alcohol removing ester-interchange reaction between the diester and the diol. Adipic acid 3-methyl-3-hydroxypropyl butyl ester (3-methyl-3-hydroxypropyl butyl adipate), an ester alcohol prepared from adipic acid, 1,3-butanediol, and butanol may be purified after dehydrating esterification as in Example 1, and catalyst removing treatment and then distillation. The boiling point is 155° to 160° C./0.2 mmHg. Using a mixture of 82.8 g of this product and 405 g of dibutyl adipate (mol ratio is 1:5.2) to which 0.5 g of butyl titanate was added, reaction was carried out under a reduced pressure of 20 mmHg and heating at 160° C. for 12 hours with stirring while removing 21.5 g (97%) of resulting butanol, and after completion of the reaction, catalyst removing alkali washing and water washing as well as distillation was carried out to obtain 342 g of DBA and 5.2 g of unreacted ester-alcohol and 94.9 g (75.8%) of 1,3-butanediol bis-butyl adipate having a boiling point of 235° to 245° C./0.8 mmHg and 7.6 g (8.4%) of a residual material which was considered to be an oligomer of n=2.

reactant | Adipic acid 3-methyl-3-hydroxypropyl butyl ester (3-methyl-3-hydroxypropyl butyl adipate) | CC(CCC(C(=O)O)(CCCC(=O)O)CCCO)C.C(CCC)OC(CCCCC(=O)OCCC(O)C)=O | 2C14H26O5
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | 1,3-butanediol | C(CC(C)O)O | C4H10O2
solvent | butanol | C(CCC)O | C4H10O
product | 1,3-butanediol bis-butyl adipate | 94.9 g, 75.8% | C(CCC)C(C(=O)O)(CCCC(=O)O)CCCC.C(CC(C)O)O | InChI=1S/C14H26O4.C4H10O2/c1-3-5-9-14(13(17)18,10-6-4-2)11-7-8-12(15)16;1-4(6)2-3-5/h3-11H2,1-2H3,(H,15,16)(H,17,18);4-6H,2-3H2,1H3
